US05127936
Preparation of 5-Methyl-2-(methylthio)-7phenyl-1,2,4-triazolo[1,5-a]pyrimidine
To 50 ml of stirring glacial acetic acid, 2.5 g (19.2 mmol) of 3-amino-5-methylthio-1,2,4-triazole and 3.1 g (19.1 mmol) of benzoylacetone was added followed by heating at reflux for 2 h. The solvent was evaporated in vacuo and excess water added to the residue followed by extraction with 200 ml of ethyl acetate. The extract was washed with water, saturated sodium bicarbonate, brine, dried over magnesium sulfate and evaporated in vacuo to give an oil. Addition of n-butyl chloride resulted in crystallization of a solid which was filtered and washed with n-butyl chloride to give 1.33 g of the pure title compound, m.p. 121°-123° C.

reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | 3-amino-5-methylthio-1,2,4-triazole | 19.2 mmol, 2.5 g | NC1=NNC(=N1)SC | C3H6N4S
reactant | benzoylacetone | 19.1 mmol, 3.1 g | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
solvent | n-butyl chloride | C(CCC)Cl | C4H9Cl
product | 5-Methyl-2-(methylthio)-7phenyl-1,2,4-triazolo[1,5-a]pyrimidine | 1.33 g | CC1=NC=2N(C(=C1)C1=CC=CC=C1)N=C(N2)SC | C13H12N4S
